US06814960B1
Analogously to Example 1, reaction of 20.0 g (0.12 mol) of benzyl bromide, 38.9 g (0.23 mol) of triethyl phosphite and 15.9 g (0.12 mol) of 3-methoxybenzaldehyde yields 7.0 g of 3-hydroxystilbene, corresponding to formula

reactant | benzyl bromide | 0.12 mol, 20.0 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | triethyl phosphite | 0.23 mol, 38.9 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | 3-methoxybenzaldehyde | 0.12 mol, 15.9 g | COC=1C=C(C=O)C=CC1 | C8H8O2
product | 3-hydroxystilbene | 7.0 g | OC=1C=C(C=CC1)C=CC1=CC=CC=C1 | C14H12O
